US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-carbamylphenyl)urea dihydrochloride
A solution of 1-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}-3-(4-cyanophenyl)urea dihydrochloride monohydrate (10.0 g; 19.9 mmole), glacial acetic acid (120 ml), and concentrated hydrochloric acid (80 ml) was heated at 80° C. for 30 minutes. The mixture was then poured over ice, and basified with aqueous potassium hydroxide. The product was extracted with methylene chloride, dried (sodium sulfate), and the salt precipitated out ethereal hydrochloric acid. Several recrystallizations from ethanol provided the title compound (3.54 g; 38% yield) as colorless crystals, m.p. 224°-226° C.

reactant | 1-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}-3-(4-cyanophenyl)urea dihydrochloride monohydrate | 19.9 mmole, 10.0 g | O.Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC2=CC=C(C=C2)C#N)C=C1
reactant | hydrochloric acid | 80 ml | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-carbamylphenyl)urea dihydrochloride | 3.54 g, 38% yield | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC2=CC=C(C=C2)C(N)=O)C=C1 | InChI=1S/C22H28ClN5O2.2ClH/c23-19-6-2-17(3-7-19)16-28-14-12-27(13-15-28)11-1-10-25-22(30)26-20-8-4-18(5-9-20)21(24)29;;/h2-9H,1,10-16H2,(H2,24,29)(H2,25,26,30);2*1H
